US06255333B1
3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-(1-methyl-2,2-difluoroethenyl)pyrazole
4-Acetyl-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (0.5 g), triphenylphosphine (1.884 g), dibromodifluoromethane (0.33 ml) and dichloromethane (50 ml) were placed in a stainless steel bomb and heated and stirred at 90° C. for 12 hours. The reaction mixtiure was evaporated and the residue was purified by column chromatography on silica gel eluted with dichloromethane. Combination and evaporation of suitable fractions gave the title compound as a white solid, m.p. 66-68° C.

reactant | 4-Acetyl-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 0.5 g | C(C)(=O)C=1C(=NN(C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C13H6Cl2F3N3O
reactant | triphenylphosphine | 1.884 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dibromodifluoromethane | 0.33 ml | BrC(F)(F)Br | CBr2F2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-Cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-(1-methyl-2,2-difluoroethenyl)pyrazole | C(#N)C1=NN(C=C1C(=C(F)F)C)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H6Cl2F5N3
